US08314092B2
Add phosphoryl chloride (5 equiv; 2.21 mL, 3.64 g, 23.76 mmoles) to 7-chloro-2-(methylsulfanyl)-5,10-dihydro-11H-pyrrolo[2,1-c][1,4]benzodiazepin-11-one (1.38 g, 4.75 mmoles) in chloroform (20 mL) and heat and stir at 45° C. for 2 h. Raise the temperature of the reaction to 60° C. and stir for a further 2 h. Remove the chloroform in vacuo and dissolve the residue in DCM (100 mL) and wash with saturated sodium bicarbonate solution (100 mL). Filter the DCM layer through a phase separation frit and evaporate the solvent in vacuo to give a viscous oil. Dissolve the oil in acetonitrile (10 mL) and add cesium carbonate (3 equiv; 4.65 g, 14.26 mmoles). Add to this mixture piperazine (10 equiv; 4.09 g, 47.52 mmoles) in dry acetonitrile (10 mL) and heat and stir the mixture under reflux overnight. Cool the reaction mixture and add saturated ammonium chloride solution (100 mL) and extract into EtOAc (2×50 mL). Combine the organic layers and wash with water (3×100 mL), dry over MgSO4, filter and evaporate the solvent in vacuo to give 7-chloro-2-(methylsulfanyl)-11-(piperazin-1-yl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine (1.0 g, 60%). MS (m/z): 347.13 (M+1).

reactant | phosphoryl chloride | 23.76 mmoles, 2.21 mL, 3.64 g, 5 equiv | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-chloro-2-(methylsulfanyl)-5,10-dihydro-11H-pyrrolo[2,1-c][1,4]benzodiazepin-11-one | 4.75 mmoles, 1.38 g | ClC=1C=CC2=C(CN3C(C(N2)=O)=CC(=C3)SC)C1 | C13H11ClN2OS
reactant | cesium carbonate | 14.26 mmoles, 4.65 g, 3 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | piperazine | 47.52 mmoles, 4.09 g, 10 equiv | N1CCNCC1 | C4H10N2
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 7-chloro-2-(methylsulfanyl)-11-(piperazin-1-yl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 1.0 g, 60% | ClC=1C=CC2=C(CN3C(C(=N2)N2CCNCC2)=CC(=C3)SC)C1 | C17H19ClN4S
